US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(morpholino)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (125.5 mg, 0.384 mmol) and morpholine were reacted as starting materials at 100° C. for 15 hours and post-treatment was then conducted, whereby the title compound was obtained as a pale yellow crystalline powder (115.2 mg, 79.5%). Melting point: 188.0-190.3° C. (chloroform-diethylether).

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.384 mmol, 125.5 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 3,4-bis(4-methoxyphenyl)-6-(morpholino)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)N1CCOCC1 | C22H23N3O3
